US08981111B2
To a solution of N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(3-thienyl)methanimine (4.96 g, 23.9 mmol) and 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione (8.35 g, 26.3 mmol) in acetonitrile (100 mL) were added cesium carbonate (16.4 g, 50.3 mmol) and potassium iodide (397 mg, 2.39 mmol). After stirring at room temperature for 28 h, the reaction mixture was filtered, the insolubles washed with ethyl acetate, and the combined filtrates concentrated in vacuo. Purification on silica gel afforded 2-{6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione [6.91 g, yield 62%; HPLC/MS: m/z=444 (M+H); log P(HCOOH)=1.73].

reactant | N-hydroxy-1-(1-methyl-1H-imidazol-5-yl)-1-(3-thienyl)methanimine | 23.9 mmol, 4.96 g | ON=C(C1=CSC=C1)C1=CN=CN1C | C9H9N3OS
reactant | 2-[6-(bromomethyl)pyridin-2-yl]-1H-isoindole-1,3(2H)-dione | 26.3 mmol, 8.35 g | BrCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C14H9BrN2O2
reactant | cesium carbonate | 50.3 mmol, 16.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 2.39 mmol, 397 mg | [I-].[K+]
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-{6-[({[(1-methyl-1H-imidazol-5-yl)(3-thienyl)methylene]amino}oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 6.91 g, yield 62% | CN1C=NC=C1C(C1=CSC=C1)=NOCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C23H17N5O3S
